US08114868B2
2,2-dimethyl-3-((R)-2-oxo-3-((S)-1-(4-(2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-6-yl)propanenitrile
The title compound was prepared from 2,2-dimethyl-3-((R)-2-oxo-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)propanenitrile and 4-iodopyridin-2(1H)-one following a procedure analogous to that described in Example 4. LC-MS Method 1 tR=1.36 min, m/z=456(M+1); 1H NMR (CDCl3) 7.77 (d, 1H), 7.43-7.32 (m, 7H), 7.01 (t, 4H), 5.67 (q, 1H), 2.99 (dd, 1H), 2.57-2.43 (m, 2H), 2.32 (m, 1H), 2.17 (s, 2H), 1.57 (d, 3H), 1.40 (s, 3H), 1.33 (s, 3H).

reactant | 2,2-dimethyl-3-((R)-2-oxo-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)propanenitrile | CC(C#N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)C | C29H37BN2O4
reactant | 4-iodopyridin-2(1H)-one | IC1=CC(NC=C1)=O | C5H4INO
product | 2,2-dimethyl-3-((R)-2-oxo-3-((S)-1-(4-(2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-6-yl)propanenitrile | CC(C#N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(NC=C1)=O)C1=CC=CC=C1)C | C28H29N3O3
